US05696299
Interesterification was carried out by using 1 g of Lipase QL, 40 g of (R,S)-1-phenylethanol, and 60 g of ethyl behenate under the same conditions as in Example 6 at 95° C. for a period of 20 hours. The water content of the reaction system was 0.03% by weight, and 95% of the lipase particles had a particle size of 20 to 40 μm. Gas chromatography of the reaction mixture revealed that 47 mol % of (R,S)-1-phenylethanol had been converted to 1-phenylethyl behenate. The reaction mixture was treated in the same manner as in Example 6 and subjected to simple distillation at 85° C. and 5 mmHg to give (S)-(-)-1-phenylethanol (yield: 97%; chemical purity: 99.9%; optical purity: 88.9% ee). On the other hand, the residue, i.e., a mixture of (R)-(+)-1-phenylethyl behenate and unreacted ethyl behenate was alkali-hydrolyzed in the same manner as in Example 1, and 1000 ml of acetone was added to the reaction mixture, followed by cooling to 5° C. The precipitated behenic acid was removed by filtration to obtain (R)-(+)-1-phenylethanol (yield: 88%; chemical purity: 99.9%; optical purity: 98.5% ee).

reactant | (R)-(+)-1-phenylethyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O[C@H](C)C1=CC=CC=C1 | C30H52O2
reactant | ethyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC | C24H48O2
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
product | (R)-(+)-1-phenylethanol | yield: 88% | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
